US05866579
1-Methoxyimino-7-nitro-tetralin.
7-Nitro-tetralone (1.00 g, 5.23 mmol) was suspended in EtOH (10 mL), cooled by an ice water bath and treated with methoxylamine hydrochloride (0.52 g, 6.23 mmol) and sodium bicarbonate (0.57 g, 6.78 mmol). The mixture was stirred at room temperature for 1 h before ice water (50 mL) was added. A precipitate formed which was filtered off to give a white solid 1.10 g, 95% yield). This solid contained two geometric isomers in a ratio of 7:1. It was dissolved in CCl4 /CHCl3 and flash chromatographed over silica gel (50 g) eluting with EtOAc/hexane (1:20) to afford the major isomer as a white solid. It was recrystallized from hot EtOAc to give colorless crystals (556 mg): mp 128°-131° C.

reactant | 7-Nitro-tetralone | 5.23 mmol, 1.00 g | [N+](=O)([O-])C1=CC=C2CCCC(C2=C1)=O | C10H9NO3
reactant | methoxylamine hydrochloride | 6.23 mmol, 0.52 g | Cl.O(C)N
reactant | sodium bicarbonate | 6.78 mmol, 0.57 g | C([O-])(O)=O.[Na+]
solvent | EtOH | 10 mL | CCO | C2H6O
product | 1-Methoxyimino-7-nitro-tetralin | 1.10 g, 95% yield | CON=C1CCCC2=CC=C(C=C12)[N+](=O)[O-] | C11H12N2O3
